US07279481B2
1-(4-Fluoro-3-{2-[4-(2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}phenyl)-2-imidazolidinone (E139)
The title compound was prepared in 35% yield according to the general procedure for the preparation of amides, ureas and carbamates (Method A) starting from 5-{4-[2-(5-bromo-2-fluorophenyl)ethy]-1-piperazinyl}2-methylquinoline and 2-imidazolidone.

reactant | 5-{4-[2-(5-bromo-2-fluorophenyl)ethy]-1-piperazinyl}2-methylquinoline | BrC=1C=CC(=C(C1)CCN1CCN(CC1)C1=C2C=CC(=NC2=CC=C1)C)F | C22H23BrFN3
reactant | 2-imidazolidone | N1C(NCC1)=O | C3H6N2O
product | 1-(4-Fluoro-3-{2-[4-(2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}phenyl)-2-imidazolidinone | 35% yield | FC1=C(C=C(C=C1)N1C(NCC1)=O)CCN1CCN(CC1)C1=C2C=CC(=NC2=CC=C1)C | C25H28FN5O
